US07807677B2
5-Hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one O-benzyl-oxime (23c)
To a solution of 5-hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one (33.4 g, 0.216 mol) in pyridine (300 mL) was added O-benzylhydroxylamine hydrochloride (38.3 g, 0.240 mol) and the mixture was stirred at room temperature over weekend. The mixture was evaporated under reduced pressure and co-evaporated two times with toluene. Ethyl acetate was added and the organic phase was washed with 5% citric acid and brine. The organic phase was dried with sodium sulphate and evaporated under reduced pressure. Yield. 55.1 g=98%

reactant | 5-hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one | 0.216 mol, 33.4 g | OC1C(C2=C(SC=C2)C1)=O | C7H6O2S
reactant | O-benzylhydroxylamine hydrochloride | 0.240 mol, 38.3 g | Cl.C(C1=CC=CC=C1)ON
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 5-Hydroxy-5,6-dihydro-cyclopenta[b]thiophen-4-one O-benzyl-oxime | C(C1=CC=CC=C1)ON=C1C(CC=2SC=CC21)O | C14H13NO2S
